US05185360
5,10-dihydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole
A mixture of 5-methoxy-4,6-dimethyl-1-indanone (3.0 g, 16 mmol) and phenylhydrazine hydrochloride (2.3 g, 16 mmol) was heated to reflux in ethanol (20 cm3) containing concentrated hydrochloric acid (2 cm3). The reaction mixture was heated at reflux for 6 hours, and cooled to room temperature. Water was added, and the resulting precipitate filtered off. This product was dried in a vacuum oven, and purified by column chromatography to yield the title compound as a colourless solid. Yield: 2.8 g, (67%). M.p. 177° C. from ethyl acetate petrol (60°-80° C.). 1H NMR (CDCl3)δ: 2.36 (6H, s,), 3.56 (2H, s,), 3.76 (3H, s,), 7.1-7.6 (5H, m,), 8.2 (1H,br,).

reactant | 5-methoxy-4,6-dimethyl-1-indanone | 16 mmol, 3.0 g | COC=1C(=C2CCC(C2=CC1C)=O)C | C12H14O2
reactant | phenylhydrazine hydrochloride | 16 mmol, 2.3 g | Cl.C1(=CC=CC=C1)NN
reactant | hydrochloric acid | 2 cm3 | Cl | ClH
reactant | Water | O | H2O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | 5,10-dihydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole | COC=1C(=C2CC3=C(NC=4C=CC=CC34)C2=CC1C)C | C18H17NO
